US06399616B1
4-(1-Piperazinyl)furo[3,2-c]pyridine
A solution of 0.065 mol of 4-chlorofuro[3,2-c]pyridine and 5 equivalents of piperazine in 25 ml of ethanol is heated for 17 hours at 120° C. under an inert atmosphere. After cooling and concentration under reduced pressure, the residue obtained is stirred in the presence of 150 ml of water and 150 ml of dichloromethane. After decanting and extraction with dichloromethane, the organic phases are dried and filtered and then concentrated under reduced pressure, enabling the expected product to be isolated.

reactant | 4-chlorofuro[3,2-c]pyridine | 0.065 mol | ClC1=NC=CC2=C1C=CO2 | C7H4ClNO
reactant | piperazine | 5 equivalents | N1CCNCC1 | C4H10N2
reactant | water | 150 ml | O | H2O
reactant | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(1-Piperazinyl)furo[3,2-c]pyridine | N1(CCNCC1)C1=NC=CC2=C1C=CO2 | C11H13N3O
